US08084448B2
B. 2-Benzyloxy-4-methylsulfanylmethylphenylamine
To a stirred solution of 2-benzyloxy-4-methylsulfanylmethyl-1-nitrobenzene (900 mg, 3.11 mmol) EtOH (80 mL) is added SnCl2 (3.53 g, 18.7 mmol) and the solution is refluxed for 2 h. After the mixture cools to RT the EtOH is removed under reduced pressure and EtOAc is added. The solution is washed with 1N NaOH, water, brine and dried over sodium sulfate. The solvent is removed under reduced pressure and the residue is purified by flash chromatography using hexane/EtOAc (5:1) as eluent to give the title compound as a yellow liquid. NMR (CDCl3): 7.44-7.31 (m, 5H), 6.85 (d, J=1.77 Hz, 1H), 6.72-6.70 (dd, J=1.77 Hz, 7.83 Hz, 1H), 6.66-6.64 (d, J=7.84 Hz, 1H), 5.08 (s, 2H), 3.59 (s, 2H), 1.95 (s, 3H): (M+1)+=260.

reactant | 2-benzyloxy-4-methylsulfanylmethyl-1-nitrobenzene | 3.11 mmol, 80 mL, 900 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CSC)[N+](=O)[O-] | C15H15NO3S
reactant | SnCl2 | 18.7 mmol, 3.53 g | Cl[Sn]Cl
solvent | EtOH | CCO | C2H6O
product | 2-Benzyloxy-4-methylsulfanylmethylphenylamine | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CSC)N | C15H17NOS
